US04731368
2-Sulfamoyl-4,5-dihydrothieno[2,3-c]pyridine
To a partial suspension of 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (3.05 g, 14 mmol) in ethyl acetate (200 ml) was added activated manganese dioxide (3.0 g). This mixture was warmed to 80° C. Every two hours an additional 3.0 g of activated manganese dioxide was added until 12 g total had been added. This mixture was filtered hot and the collected manganese dioxide was re-extracted with hot ethyl acetate. The combined ethyl acetate extracts were evaporated to give 2.1 g of crude product. This material was purified by chromatography on silica gel eluting with a gradient 0-5% methanol/ethyl acetate. Recrystallization from ethyl acetate gave pure product (0.8 g, 26.5% yield); m.p. 161°-164° C.

reactant | 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 14 mmol, 3.05 g | S(N)(=O)(=O)C1=CC2=C(CNCC2)S1 | C7H10N2O2S2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 3.0 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 3.0 g | [O-2].[O-2].[Mn+4]
product | 2-Sulfamoyl-4,5-dihydrothieno[2,3-c]pyridine | 0.8 g, 26.5% yield | S(N)(=O)(=O)C1=CC2=C(C=NCC2)S1 | C7H8N2O2S2
